* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT inv_X64 I VDD VSS O
** N=4 EP=4 IP=0 FDC=32
M0 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=-2590 $Y=-1630 $D=3
M1 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-1870 $Y=-1630 $D=3
M2 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-1150 $Y=-1630 $D=3
M3 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-430 $Y=-1630 $D=3
M4 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=290 $Y=-1630 $D=3
M5 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=1010 $Y=-1630 $D=3
M6 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=1730 $Y=-1630 $D=3
M7 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=2450 $Y=-1630 $D=3
M8 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=3170 $Y=-1630 $D=3
M9 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=3890 $Y=-1630 $D=3
M10 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=4610 $Y=-1630 $D=3
M11 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=5330 $Y=-1630 $D=3
M12 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=6050 $Y=-1630 $D=3
M13 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=6770 $Y=-1630 $D=3
M14 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=7490 $Y=-1630 $D=3
M15 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=8210 $Y=-1630 $D=3
M16 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-2590 $Y=-4140 $D=2
M17 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-1870 $Y=-4140 $D=2
M18 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-1150 $Y=-4140 $D=2
M19 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-430 $Y=-4140 $D=2
M20 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=290 $Y=-4140 $D=2
M21 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1010 $Y=-4140 $D=2
M22 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1730 $Y=-4140 $D=2
M23 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=2450 $Y=-4140 $D=2
M24 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3170 $Y=-4140 $D=2
M25 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3890 $Y=-4140 $D=2
M26 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=4610 $Y=-4140 $D=2
M27 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=5330 $Y=-4140 $D=2
M28 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=6050 $Y=-4140 $D=2
M29 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=6770 $Y=-4140 $D=2
M30 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=7490 $Y=-4140 $D=2
M31 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=8210 $Y=-4140 $D=2
.ENDS
***************************************
