* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT inv_X8 I VDD VSS O
** N=4 EP=4 IP=0 FDC=4
M0 O I VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=-650 $Y=2100 $D=3
M1 VDD I O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=70 $Y=2100 $D=3
M2 O I VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-650 $Y=-410 $D=2
M3 VSS I O VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=70 $Y=-410 $D=2
.ENDS
***************************************
