* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT mux_X16 s e VDD VSS A B O
** N=14 EP=7 IP=0 FDC=120
M0 3 s VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=-6720 $Y=-13310 $D=3
M1 VDD s 3 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-6000 $Y=-13310 $D=3
M2 3 s VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-5280 $Y=-13310 $D=3
M3 VDD s 3 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-4560 $Y=-13310 $D=3
M4 4 e VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-3840 $Y=-13310 $D=3
M5 5 e VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=-3840 $Y=-3570 $D=3
M6 VDD e 4 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-3120 $Y=-13310 $D=3
M7 VDD e 5 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-3120 $Y=-3570 $D=3
M8 4 e VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-2400 $Y=-13310 $D=3
M9 5 e VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-2400 $Y=-3570 $D=3
M10 VDD e 4 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-1680 $Y=-13310 $D=3
M11 VDD e 5 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-1680 $Y=-3570 $D=3
M12 4 3 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-960 $Y=-13310 $D=3
M13 5 s VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-960 $Y=-3570 $D=3
M14 VDD 3 4 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-240 $Y=-13310 $D=3
M15 VDD s 5 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=-240 $Y=-3570 $D=3
M16 4 3 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=480 $Y=-13310 $D=3
M17 5 s VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=480 $Y=-3570 $D=3
M18 VDD 3 4 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=1200 $Y=-13310 $D=3
M19 VDD s 5 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=1200 $Y=-3570 $D=3
M20 6 4 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=1920 $Y=-13310 $D=3
M21 7 5 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=1920 $Y=-3570 $D=3
M22 VDD 4 6 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=2640 $Y=-13310 $D=3
M23 VDD 5 7 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=2640 $Y=-3570 $D=3
M24 6 4 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=3360 $Y=-13310 $D=3
M25 7 5 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=3360 $Y=-3570 $D=3
M26 VDD 4 6 VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=4080 $Y=-13310 $D=3
M27 VDD 5 7 VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=4080 $Y=-3570 $D=3
M28 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=6750 $Y=-13310 $D=3
M29 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=6750 $Y=-3570 $D=3
M30 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=7470 $Y=-13310 $D=3
M31 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=7470 $Y=-3570 $D=3
M32 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=8190 $Y=-13310 $D=3
M33 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=8190 $Y=-3570 $D=3
M34 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=8910 $Y=-13310 $D=3
M35 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=8910 $Y=-3570 $D=3
M36 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=9630 $Y=-13310 $D=3
M37 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=9630 $Y=-3570 $D=3
M38 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=10350 $Y=-13310 $D=3
M39 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=10350 $Y=-3570 $D=3
M40 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=11070 $Y=-13310 $D=3
M41 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=11070 $Y=-3570 $D=3
M42 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=11790 $Y=-13310 $D=3
M43 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=11790 $Y=-3570 $D=3
M44 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=12510 $Y=-13310 $D=3
M45 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=12510 $Y=-3570 $D=3
M46 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=13230 $Y=-13310 $D=3
M47 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=13230 $Y=-3570 $D=3
M48 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=13950 $Y=-13310 $D=3
M49 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=13950 $Y=-3570 $D=3
M50 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=14670 $Y=-13310 $D=3
M51 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=14670 $Y=-3570 $D=3
M52 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=15390 $Y=-13310 $D=3
M53 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=15390 $Y=-3570 $D=3
M54 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=16110 $Y=-13310 $D=3
M55 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=16110 $Y=-3570 $D=3
M56 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=16830 $Y=-13310 $D=3
M57 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=16830 $Y=-3570 $D=3
M58 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=17550 $Y=-13310 $D=3
M59 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=17550 $Y=-3570 $D=3
M60 3 s VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-8250 $Y=-8930 $D=2
M61 VSS s 3 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-7530 $Y=-8930 $D=2
M62 3 s VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-6810 $Y=-8930 $D=2
M63 VSS s 3 VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=-6090 $Y=-8930 $D=2
M64 4 e 10 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-4490 $Y=-8930 $D=2
M65 5 e 11 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-4490 $Y=-5950 $D=2
M66 10 e 4 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-3770 $Y=-8930 $D=2
M67 11 e 5 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-3770 $Y=-5950 $D=2
M68 4 e 10 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-3050 $Y=-8930 $D=2
M69 5 e 11 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-3050 $Y=-5950 $D=2
M70 10 e 4 VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=-2330 $Y=-8930 $D=2
M71 11 e 5 VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=-2330 $Y=-5950 $D=2
M72 10 3 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-310 $Y=-8930 $D=2
M73 11 s VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-310 $Y=-5950 $D=2
M74 VSS 3 10 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=410 $Y=-8930 $D=2
M75 VSS s 11 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=410 $Y=-5950 $D=2
M76 10 3 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1130 $Y=-8930 $D=2
M77 11 s VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1130 $Y=-5950 $D=2
M78 VSS 3 10 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1850 $Y=-8930 $D=2
M79 VSS s 11 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1850 $Y=-5950 $D=2
M80 6 4 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=2570 $Y=-8930 $D=2
M81 7 5 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=2570 $Y=-5950 $D=2
M82 VSS 4 6 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3290 $Y=-8930 $D=2
M83 VSS 5 7 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3290 $Y=-5950 $D=2
M84 6 4 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=4010 $Y=-8930 $D=2
M85 7 5 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=4010 $Y=-5950 $D=2
M86 VSS 4 6 VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=4730 $Y=-8930 $D=2
M87 VSS 5 7 VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=4730 $Y=-5950 $D=2
M88 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=6750 $Y=-8800 $D=2
M89 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=6750 $Y=-6080 $D=2
M90 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=7470 $Y=-8800 $D=2
M91 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=7470 $Y=-6080 $D=2
M92 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=8190 $Y=-8800 $D=2
M93 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=8190 $Y=-6080 $D=2
M94 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=8910 $Y=-8800 $D=2
M95 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=8910 $Y=-6080 $D=2
M96 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=9630 $Y=-8800 $D=2
M97 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=9630 $Y=-6080 $D=2
M98 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=10350 $Y=-8800 $D=2
M99 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=10350 $Y=-6080 $D=2
M100 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=11070 $Y=-8800 $D=2
M101 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=11070 $Y=-6080 $D=2
M102 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=11790 $Y=-8800 $D=2
M103 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=11790 $Y=-6080 $D=2
M104 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=12510 $Y=-8800 $D=2
M105 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=12510 $Y=-6080 $D=2
M106 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=13230 $Y=-8800 $D=2
M107 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=13230 $Y=-6080 $D=2
M108 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=13950 $Y=-8800 $D=2
M109 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=13950 $Y=-6080 $D=2
M110 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=14670 $Y=-8800 $D=2
M111 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=14670 $Y=-6080 $D=2
M112 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=15390 $Y=-8800 $D=2
M113 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=15390 $Y=-6080 $D=2
M114 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=16110 $Y=-8800 $D=2
M115 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=16110 $Y=-6080 $D=2
M116 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=16830 $Y=-8800 $D=2
M117 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=16830 $Y=-6080 $D=2
M118 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=17550 $Y=-8800 $D=2
M119 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=17550 $Y=-6080 $D=2
.ENDS
***************************************
