* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT mux_X4 s e VDD VSS A B O
** N=14 EP=7 IP=0 FDC=30
M0 3 s VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=1.47e-12 PD=3.98e-06 PS=3.98e-06 $X=12530 $Y=-6410 $D=3
M1 4 e VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=14550 $Y=-6410 $D=3
M2 5 e VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=14550 $Y=3330 $D=3
M3 VDD 3 4 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=15270 $Y=-6410 $D=3
M4 VDD s 5 VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=15270 $Y=3330 $D=3
M5 6 4 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=15990 $Y=-6410 $D=3
M6 7 5 VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=15990 $Y=3330 $D=3
M7 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=18010 $Y=-6410 $D=3
M8 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=18010 $Y=3330 $D=3
M9 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=18730 $Y=-6410 $D=3
M10 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=18730 $Y=3330 $D=3
M11 O 4 A VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=19450 $Y=-6410 $D=3
M12 O 5 B VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=19450 $Y=3330 $D=3
M13 A 4 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=20170 $Y=-6410 $D=3
M14 B 5 O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=20170 $Y=3330 $D=3
M15 3 s VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=4.9e-13 PD=1.98e-06 PS=1.98e-06 $X=12530 $Y=-1900 $D=2
M16 10 e 4 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=14550 $Y=-1900 $D=2
M17 11 e 5 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=14550 $Y=820 $D=2
M18 VSS 3 10 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=15270 $Y=-1900 $D=2
M19 VSS s 11 VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=15270 $Y=820 $D=2
M20 6 4 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=15990 $Y=-1900 $D=2
M21 7 5 VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=15990 $Y=820 $D=2
M22 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=18010 $Y=-1900 $D=2
M23 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=18010 $Y=820 $D=2
M24 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=18730 $Y=-1900 $D=2
M25 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=18730 $Y=820 $D=2
M26 O 6 A VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=19450 $Y=-1900 $D=2
M27 O 7 B VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=19450 $Y=820 $D=2
M28 A 6 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=20170 $Y=-1900 $D=2
M29 B 7 O VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=20170 $Y=820 $D=2
.ENDS
***************************************
