* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT nand_X1 A B VDD O VSS
** N=6 EP=5 IP=0 FDC=4
M0 O A VDD VDD P_18_MM L=1.8e-07 W=7.5e-07 AD=2.025e-13 AS=3.675e-13 PD=5.4e-07 PS=1.73e-06 $X=610 $Y=1210 $D=3
M1 VDD B O VDD P_18_MM L=1.8e-07 W=7.5e-07 AD=3.675e-13 AS=2.025e-13 PD=1.73e-06 PS=5.4e-07 $X=1330 $Y=1210 $D=3
M2 5 A O VSS N_18_MM L=1.8e-07 W=2.5e-07 AD=1.268e-13 AS=2.236e-13 PD=8.7e-07 PS=1.75e-06 $X=400 $Y=-3550 $D=2
M3 VSS B 5 VSS N_18_MM L=1.8e-07 W=2.5e-07 AD=2.236e-13 AS=1.268e-13 PD=1.75e-06 PS=8.7e-07 $X=1260 $Y=-3550 $D=2
.ENDS
***************************************
