* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT nand_X4 A B VDD O VSS
** N=6 EP=5 IP=0 FDC=4
M0 O A VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=3960 $Y=-1720 $D=3
M1 VDD B O VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=4680 $Y=-1720 $D=3
M2 5 A O VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=3960 $Y=-4230 $D=2
M3 VSS B 5 VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=4680 $Y=-4230 $D=2
.ENDS
***************************************
